US05665725
A mixture of 1-ethoxycarbonyl-4-piperidinone (17 g), pyrocatechol (13 g) and p-toluenesulfonic acid (2.5 g) in 250 ml of dry toluene was refluxed with continuous removal of water. After 3 h the reaction mixture was concentrated in vacuo, 2% NaOH (200 ml) was added followed by extraction with dichloromethane. After drying over magnesium sulfate and removal of solvent in vacuo, the remaining red oil was applied to a silica gel column (eluent:ethyl acetate/heptane=1:1) giving 22 g of a slightly yellow oil, 1'-ethoxycarbonyl-spiro[1,3-benzodioxole-2,4'-piperidine]. The oil was dissolved in ethanol (250 ml), NaOH (10 g) and water (20 ml) were added and the mixture refluxed for 20 h. Removal of the solvents in vacuo addition of salt water followed by extraction with dichloromethane gave, after drying the organic phase over magnesium sulfate and removal of the solvent in vacuo, a red oil which was applied to a silica gel column (eluent:ethyl acetate/methanol/triethylamine =4:5:1 ) yielding 10 g of colorless crystals, spiro[1,3-benzodioxole-2,4'-piperidine], mp: 108°-10° C. The title compound, 25a, prepared from 4-phenyl-1-butyl methanesulfonate (2.3 g) and spiro[1,3-benzodioxole-2,4'-piperidine] (1.9 g) according to the method described in EXAMPLE 2, crystallized as the maleate salt from acetone by addition of maleic acid. Yield: 1.6 g, mp: 156°-57° C.

reactant | 1-ethoxycarbonyl-4-piperidinone | 17 g | C(C)OC(=O)N1CCC(CC1)=O | C8H13NO3
reactant | pyrocatechol | 13 g | C=1(O)C(O)=CC=CC1 | C6H6O2
reactant | p-toluenesulfonic acid | 2.5 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | water | O | H2O
solvent | toluene | 250 ml | C1(=CC=CC=C1)C | C7H8
product | 1'-ethoxycarbonyl-spiro[1,3-benzodioxole-2,4'-piperidine] | C(C)OC(=O)N1CCC2(CC1)OC1=C(O2)C=CC=C1 | C14H17NO4
